US07504411B2
A solution of 3-(4-acetoxymethylphenyl)-1-methyl-1,2,5,6-tetrahydropyridine (0.67 g, 2.7 mmol) and 1-chloroethyl chloroformate (0.36 ml, 3.3 mmol) in dichloroethane was refluxed for 2 hr. Organic solvents were removed under reduced pressure after addition of water and extracted with ethyl acetate, washed with water and brine and dried over sodium sulfate. After removal of the solvent, methanol was added and refluxed for 1.5 hr. Tetrahydrofuran and water were added to the residue after removal of the solvent under reduced pressure and triethylamine (1.9 ml, 13.6 mmol) and di-tert-butyl dicarbonate (0.66 g, 3.0 mmol) were added and stirred. Organic solvents were removed under reduced pressure after addition of water and extracted with ethyl acetate, washed with water and brine and dried over sodium sulfate. Removal of the solvent under reduced pressure and the residue was purified by silica gel chromatography to give 3-(4-acetoxymethylphenyl)-1-(tert-butoxycarbonyl)-1,2,5,6-tetrahydropyridine (0.71 g, 78%).

reactant | 3-(4-acetoxymethylphenyl)-1-methyl-1,2,5,6-tetrahydropyridine | 2.7 mmol, 0.67 g | C(C)(=O)OCC1=CC=C(C=C1)C=1CN(CCC1)C | C15H19NO2
reactant | 1-chloroethyl chloroformate | 3.3 mmol, 0.36 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | triethylamine | 13.6 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 3.0 mmol, 0.66 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 3-(4-acetoxymethylphenyl)-1-(tert-butoxycarbonyl)-1,2,5,6-tetrahydropyridine | 0.71 g, 78% | C(C)(=O)OCC1=CC=C(C=C1)C=1CN(CCC1)C(=O)OC(C)(C)C | C19H25NO4
